* Z:\mnt\design.r\spice\examples\1263.asc
C1 N001 N002 .47µ
C2 N003 N004 .47µ
C3 OUT 0 10µ
V1 IN 0 5
Rload OUT 0 1K
XU1 N001 N002 N003 N004 IN OUT 0 0 LTC1263
.tran 1m
.lib LTC1263.sub
.backanno
.end
